US09422331B2
To a rt solution of tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-1,5-bis(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (0.707 g, 1.31 mmol) in MeOH (13.1 ml) was added 1 M aq. sodium hydroxide (1.44 ml, 1.44 mmol), dropwise. The reaction was stirred for 30 min, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(2S,3S)-8-cyano-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (289 mg, 52%) as a white solid. MS m/z 451 (MNa)+.

reactant | tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-1,5-bis(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 1.31 mmol, 0.707 g | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(=O)C2CCOCC2)C)NC(OC(C)(C)C)=O)=O)C(=O)C2CCOCC2)C=C1 | C28H36N4O7
reactant | sodium hydroxide | 1.44 mmol, 1 M, 1.44 ml | [OH-].[Na+]
solvent | MeOH | 13.1 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(2S,3S)-8-cyano-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 289 mg, 52% | C(#N)C=1C=CC2=C(N([C@H]([C@@H](C(N2)=O)NC(OC(C)(C)C)=O)C)C(=O)C2CCOCC2)C1 | C22H28N4O5
